US08097737B2
(E)-(1,6,7,8-Tetrahydro-2H-indeno[5,4-b]furan-8-ylidene)acetonitrile
To a solution of toluene (184 g), 1,2,6,7-tetrahydro-8H-indeno[5,4-b]furan-8-one (8.5 g, 48.9 mmol) and diethyl cyanomethylphosphonate (10.4 g, 58.7 mmol) was added dropwise 28% sodium methoxide solution in methanol (11.3 g) over 1 hr under ice-cooling, and reacted for 4 hrs. To the reaction solution was added dropwise water (85 μg), and warmed, then the layers were separated. The organic layer was washed with water, and filtered to remove dusts under pressurization. The organic layer was concentrated under reduced pressure, and to the residue was added methanol and concentrated under reduced pressure to substitute the solvent. After stirring for 1 hr under heating with reflux, the solution was cooled and matured for 1 hr. The crystallization solution was filtered, and the crystals were dried under reduced pressure to give title compound (amount 8.1 g, yield 84.4%).

reactant | toluene | 184 g | C1(=CC=CC=C1)C | C7H8
reactant | 1,2,6,7-tetrahydro-8H-indeno[5,4-b]furan-8-one | 48.9 mmol, 8.5 g | C1C2=C(OC1)C=CC=1CCC(C12)=O | C11H10O2
reactant | diethyl cyanomethylphosphonate | 58.7 mmol, 10.4 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 11.3 g | CO | CH4O
catalyst | water | 85 μg | O | H2O
product | (E)-(1,6,7,8-Tetrahydro-2H-indeno[5,4-b]furan-8-ylidene)acetonitrile | 8.1 g, yield 84.4% | C1C2=C(OC1)C=CC=1CC/C(/C12)=C\C#N | C13H11NO
